US04483986
3-Fluoro-4-nitrobenzophenone
A solution of 14.61 g. (0.079 m.) of 3-fluoro-4-nitrobenzoic acid, 200 ml. of benzene, 10 ml. of thionyl chloride, and 1 ml. of N,N-dimethylformamide was stirred overnight at room temperature under a calcium chloride drying tube. The resulting clear solution was then heated to reflux for one hour, after which time the solution was concentrated to approximately 75% of the original volume by distillation. The mixture was cooled by placing the flask in an ice bath. With additional cooling, 20 g. of aluminum chloride was added in portions through Gooch tubing over a period of about 45 minutes. The resulting dark mixture was stirred and allowed to warm to room temperature overnight. The reaction flask was again cooled in an ice bath as 300 ml. of 1N hydrochloric acid was added dropwise. The mixture was extracted several times with ethyl acetate and the combined extracts were washed with water, a saturated solution of sodium bicarbonate, water, a saturated solution of sodium chloride, and then dried over magnesium sulfate. Filtration and evaporation of the solvent in vacuo provided 16.8 g. (87% yield) of the desired compound as an oil which solidified on scratching. Recrystallization from 95% ethanol afforded yellow needles, m.p. about 77°-79° C.

reactant | 3-fluoro-4-nitrobenzoic acid | FC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C7H4FNO4
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-Fluoro-4-nitrobenzophenone | 87% yield | FC=1C=C(C(=O)C2=CC=CC=C2)C=CC1[N+](=O)[O-] | C13H8FNO3
